US07488848B2
1-Aminocyclopropanecarboxylic acid (2.64 g, 26.1 mmol) and tetramethylammonium hydroxide (2.38 g, 26.1 mmol) was added to acetonitrile (150 mL). The reaction mixture became homogeneous after stirring at room temperature for about an hour. Boc2O (8.54 g, 39.2 mmol) was then added and stirring was continued for 2 days. On the 3rd day, another portion of Boc2O (2.85 g, 13.1 mmol) was added and the reaction mixture stirred an additional day. Acetonitrile was removed under reduced pressure and the residue was partitioned between H2O and Et2O. The aqueous layer was washed with Et2O and then acidified with solid citric acid to pH ˜3. The aqueous solution was extracted with EtOAc. The combined EtOAc extracts were washed with brine, dried (Na2SO4), and the EtOAc was removed under reduced pressure to give 1-tert-butoxycarbonylaminocyclopropanecarboxylic acid as a white solid (2.32 g) which was used in the next step without further purification.

reactant | 1-Aminocyclopropanecarboxylic acid | 26.1 mmol, 2.64 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | tetramethylammonium hydroxide | 26.1 mmol, 2.38 g | [OH-].C[N+](C)(C)C
reactant | Boc2O | 39.2 mmol, 8.54 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 13.1 mmol, 2.85 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-tert-butoxycarbonylaminocyclopropanecarboxylic acid | 2.32 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
